US05847159
To a solution of diisopropylamine (16 ml) in tetrahydrofuran (350 ml) was added dropwise a 1.6M solution of butyl lithium in hexane (71 ml) under cooling at -78° C., and the mixture was stirred for 30 minutes. To the reaction mixture was added dropwise a solution of 3,4-dihydro-1(2H)-naphthalenone (16.5 g) in tetrahydrofuran (60 ml) over a period of about 20 minutes under cooling at -78° C., and the mixture was stirred for 30 minutes. To the mixture was added dropwise a solution of ethyl 3-bromopropanoate (20.5 g) in tetrahydrofuran (60 ml) over a period of about 20 minutes, and then further stirred for 30 minutes. The reaction mixture was stirred overnight at 20° C., and diluted with diethyl ether. The mixture was washed successively with water,5% aqueous sodium hydrogen carbonate solution, and 5% hydrochloric acid, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure to remove the solvent to give ethyl 1,2,3,4-tetrahydro-1-oxo-2-naphthalene-propanoate (10.1 g) as an oily product.

reactant | diisopropylamine | 16 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | 3,4-dihydro-1(2H)-naphthalenone | 16.5 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | ethyl 3-bromopropanoate | 20.5 g | BrCCC(=O)OCC | C5H9BrO2
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | hexane | 71 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 1,2,3,4-tetrahydro-1-oxo-2-naphthalene-propanoate | 10.1 g | O=C1C(CCC2=CC=CC=C12)CCC(=O)OCC | C15H18O3
